US08975415B2
The mixture of 6′-bromodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-amine (1.1 g, 3.4 mmol), di-tert-butyl dicarbonate (2.2 g, 10 mmol), and N,N-dimethylpyridin-4-amine (21 mg, 0.17 mmol) in THF (21 ml) was stirred for 3 hours at ambient temperature and for 5 hours at 50° C. The mixture was concentrated in vacuo. The residue was purified by silica gel chromatography (hexane:EtOAc=100:0-80:20) to give di-tert-butyl (6′-bromodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)imidodicarbonate (1.5 g).

reactant | 6′-bromodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-amine | 3.4 mmol, 1.1 g | BrC=1C=C2C(=CC1)OCC1(CC1)C21N=C(OC1)N | C13H13BrN2O2
reactant | di-tert-butyl dicarbonate | 10 mmol, 2.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | N,N-dimethylpyridin-4-amine | 0.17 mmol, 21 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 21 ml | C1CCOC1 | C4H8O
product | di-tert-butyl (6′-bromodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl)imidodicarbonate | 1.5 g | BrC=1C=C2C(=CC1)OCC1(CC1)C21N=C(OC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C23H29BrN2O6
